US06194426B1
1-Acetyl-2-chloro-3-(3-pyridyl)-5,6,7,8-tetrahydroindolizine is prepared as described in Example 39, from 1.7 g of 1-acetyl-2,7-dichloro-3-(3-pyridyl)-5,6-dihydroindolizine and from 0.09 g of 10% palladium on charcoal. 0.05 g of 1-acetyl-2-chloro-3-(3-pyridyl)-5,6,7,8-tetrahydroindolizine are thus obtained in the form of whitish crystalline solid melting at 115° C.

reactant | 1-acetyl-2,7-dichloro-3-(3-pyridyl)-5,6-dihydroindolizine | 1.7 g | C(C)(=O)C=1C(=C(N2CCC(=CC12)Cl)C=1C=NC=CC1)Cl | C15H12Cl2N2O
catalyst | palladium on charcoal | 0.09 g | [Pd] | Pd
product | 1-acetyl-2-chloro-3-(3-pyridyl)-5,6,7,8-tetrahydroindolizine | 0.05 g | C(C)(=O)C=1C(=C(N2CCCCC12)C=1C=NC=CC1)Cl | C15H15ClN2O
